US08084452B2
On a water separator, 550 mg (4.97 mmol) of 2-fluoroethylamine hydrochloride, 547 mg (5.47 mmol) of tetronic acid, 408 mg (4.97 mmol) of sodium acetate and 9 mg (0.05 mmol) of 4-toluenesulphonic acid in 50 ml of toluene are heated for 5 hours under reflux. The reaction mixture is concentrated under reduced pressure, the residue is taken up in ethyl acetate and the mixture is washed with 1 N aqueous sodium hydroxide solution. The aqueous phase is extracted repeatedly with ethyl acetate and the combined organic phase is dried over sodium sulphate. The organic phase is concentrated under reduced pressure and the residue is purified by recrystallisation from ethyl acetate/cyclohexane, giving 300 mg (42% of theory) of 4-[(2-fluoroethyl)amino]furan-2(5H)-one.

reactant | water | O | H2O
reactant | 2-fluoroethylamine hydrochloride | 4.97 mmol, 550 mg | Cl.FCCN
reactant | tetronic acid | 5.47 mmol, 547 mg | C1C(=O)COC1=O | C4H4O3
reactant | sodium acetate | 4.97 mmol, 408 mg | C(C)(=O)[O-].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-toluenesulphonic acid | 0.05 mmol, 9 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4-[(2-fluoroethyl)amino]furan-2(5H)-one | 300 mg, 42% | FCCNC1=CC(OC1)=O | C6H8FNO2
